US07576135B2
5-methyl-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylic acid methyl ester
4,5-Bis(chloromethyl)-2-thiophenecarboxylic acid methyl ester (D. J. Zwanenburg and Hans Wynberg, J. Org. Chem., 34, 333-340, (1969)) (520 mg) was dissolved in acetonitrile (600 mL). Methylamine (40% methanol solution, 722 μL) was added thereto, followed by stirring at room temperature for 3 days. The solvent was distilled away under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride:methanol=1:0→19:1), to thereby give the title compound (176 mg).

reactant | 4,5-Bis(chloromethyl)-2-thiophenecarboxylic acid methyl ester | 520 mg | COC(=O)C=1SC(=C(C1)CCl)CCl | C8H8Cl2O2S
reactant | Methylamine | 722 μL | CN | CH5N
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | 5-methyl-5,6-dihydro-4H-thieno[2,3-c]pyrrole-2-carboxylic acid methyl ester | 176 mg | COC(=O)C1=CC2=C(CN(C2)C)S1 | C9H11NO2S
